US08461328B2
A suspension of trans (4-carbamoylmethoxy-cyclohexyl)-carbamic acid tert-butyl ester (500 mg, 1.80 mmol) and triethylamine (510 μL, 3.70 mmol) in DCM (9 mL) at 0° C. was treated dropwise with a solution of 2,2,2-trichloroacetyl chloride (310 μL, 2.80 mmol) in DCM (1 mL). After the addition the mixture was stirred at ambient temperature for 45 minutes. The reaction mixture was diluted with water and the phases separated. The aqueous phase was extracted with DCM (2×) and the combined organic phases washed with a 10% citric acid solution, a saturated sodium bicarbonate solution and brine, dried over sodium sulfate and concentrated under vacuum. Purification by column chromatography on silica gel (gradient: 0-40% ethyl acetate in cyclohexane) to afford 280 mg (60%) of trans (4-cyanomethoxy-cyclohexyl)-carbamic acid tert-butyl ester as a white solid. LCMS (Method Q, ESI): RT=3.53 min, m+H=255.0; 1H NMR (400 MHz, CDCl3) δ: 4.37 (s, 1H), 4.27 (s, 2H), 3.47 (m, 1H), 2.05 (d, 4H), 1.44 (s, 9H), 1.38 (m, 2H), 1.18 (m, 2H).

reactant | trans (4-carbamoylmethoxy-cyclohexyl)-carbamic acid tert-butyl ester | 1.80 mmol, 500 mg | C(C)(C)(C)OC(N[C@@H]1CC[C@H](CC1)OCC(N)=O)=O | C13H24N2O4
reactant | triethylamine | 3.70 mmol, 510 μL | C(C)N(CC)CC | C6H15N
reactant | 2,2,2-trichloroacetyl chloride | 2.80 mmol, 310 μL | ClC(C(=O)Cl)(Cl)Cl | C2Cl4O
solvent | DCM | 9 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 1 mL | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | trans (4-cyanomethoxy-cyclohexyl)-carbamic acid tert-butyl ester | 280 mg, 60% | C(C)(C)(C)OC(N[C@@H]1CC[C@H](CC1)OCC#N)=O | C13H22N2O3
